US08383644B2
(S)-2-{[(3S,8S)-3-(3′-Chloro-biphenyl-4-yl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid methyl ester bis hydrochloride (0.025 g), 2,5-dimethyl-oxazole-4-carboxylic acid (0.010 g), HBTU (0.027 g) in DCM (3.0 mL), DIEA (0.019 g) was added. The reaction mixture was stirred at room temperature for 2.0 hours, poured onto a silica gel column and eluted with 1% MeOH, 1:1 hexanes-EtOAc to provide (S)-2-{[(3S,8S)-3-(3′-Chloro-biphenyl-4-yl)-7-(2,5-dimethyl-oxazole-4-carbonyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid methyl ester (0.0139 g).

reactant | (S)-2-{[(3S,8S)-3-(3′-Chloro-biphenyl-4-yl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid methyl ester bis hydrochloride | 0.025 g | Cl.Cl.COC([C@H](CC1=CC=C(C=C1)C1=C(C(=NC=C1)C)C)NC(=O)[C@H]1NCC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC=C(C=C3)C3=CC(=CC=C3)Cl)=O
reactant | 2,5-dimethyl-oxazole-4-carboxylic acid | 0.010 g | CC=1OC(=C(N1)C(=O)O)C | C6H7NO3
reactant | HBTU | 0.027 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.019 g | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 3.0 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-{[(3S,8S)-3-(3′-Chloro-biphenyl-4-yl)-7-(2,5-dimethyl-oxazole-4-carbonyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid methyl ester | 0.0139 g | COC([C@H](CC1=CC=C(C=C1)C1=C(C(=NC=C1)C)C)NC(=O)[C@H]1N(CC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC=C(C=C3)C3=CC(=CC=C3)Cl)C(=O)C=3N=C(OC3C)C)=O | C47H43ClN4O7
